US09145392B2
Step 2: Benzyl 4-(1-(1-(tert-butoxycarbonyl)pyrrolidin-3-yl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidine-1-carboxylate
To a solution of 4-[4-(4-Fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid benzyl ester (1000.00 mg; 2.24 mmol; 1.00 eq.) in DMF 8 ml added NaH (107.27 mg; 2.68 mmol; 1.20 eq.), stirred at RT for 20 mins, added 3-methanesulfonyloxy-pyrrolidine-1-carboxylic acid tert-butyl ester (1186.02 mg; 4.47 mmol; 2.00 eq.), the reaction mixture was stirred 85° C. for 5 hr, lc-ms showed around 40% desired, continued stirring for over night, no big changed, purified the product by HPLC (basic) with 30-100% acetonitrile/water, collected title compound 220 mg, yield 16%.

reactant | 4-[4-(4-Fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidine-1-carboxylic acid benzyl ester | 2.24 mmol, 1000.00 mg, 1.00 eq. | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1NC=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F | C23H21F4N3O2
reactant | NaH | 2.68 mmol, 107.27 mg, 1.20 eq. | [H-].[Na+]
reactant | 3-methanesulfonyloxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.47 mmol, 1186.02 mg, 2.00 eq. | C(C)(C)(C)OC(=O)N1CC(CC1)OS(=O)(=O)C | C10H19NO5S
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | Benzyl 4-(1-(1-(tert-butoxycarbonyl)pyrrolidin-3-yl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidine-1-carboxylate | 220 mg, yield 16% | C(C)(C)(C)OC(=O)N1CC(CC1)N1C(=NC(=C1)C1=CC(=C(C=C1)F)C(F)(F)F)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C32H36F4N4O4
